US07560558B2
Compound 260: 4-[2-(4,5-Dimethylthiazol-2-yl)-5,6-dimethyl-pyridin-3-yloxy]-6,7-dimethoxy-quinoline
Dimethyl sulfoxide (2 ml) was added to 5,6-dimethyl-2-(4,5-dimethylthiazol-2-yl)-pyridin-3-ol (50 mg), 4-chloro-6,7-dimethoxyquinoline (143 mg), cesium carbonate (209 mg), and 4-(N,N-dimethylamino)-pyridine (78 mg), and the mixture was stirred at 140° C. overnight. The reaction solution was cooled to room temperature, water was then added to the cooled solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using hexane-acetone to give the title compound (7.7 mg, yield 9%).

reactant | Dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
reactant | 5,6-dimethyl-2-(4,5-dimethylthiazol-2-yl)-pyridin-3-ol | 50 mg | CC=1C=C(C(=NC1C)C=1SC(=C(N1)C)C)O | C12H14N2OS
reactant | 4-chloro-6,7-dimethoxyquinoline | 143 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | cesium carbonate | 209 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | 4-(N,N-dimethylamino)-pyridine | 78 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | water | O | H2O
product | 4-[2-(4,5-Dimethylthiazol-2-yl)-5,6-dimethyl-pyridin-3-yloxy]-6,7-dimethoxy-quinoline | 7.7 mg, yield 9% | CC=1N=C(SC1C)C1=NC(=C(C=C1OC1=CC=NC2=CC(=C(C=C12)OC)OC)C)C | C23H23N3O3S
